US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2,5-dimethyl-furan-3-sulfonamide was prepared by the method of Example 41 with 4-bromo-3-methyl5-amino-isoxazole (2.0 mmoles, 0.35 g), NaH (5.0 mmoles, 200 mg), 2,5-dimethyl-furan-3-sulfonylchloride (2.4 mmoles, 0.47 g) and THF (9 ml). Flash chromatography (5% methanol/chloroform) followed by recrystallization from chloroform and hexanes provided 0.21 g (31%) of a light brown solid, m.p. 85.5°-87° C.

reactant | 4-bromo-3-methyl5-amino-isoxazole | 2.0 mmoles, 0.35 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 5.0 mmoles, 200 mg | [H-].[Na+]
reactant | 2,5-dimethyl-furan-3-sulfonylchloride | 2.4 mmoles, 0.47 g | CC=1OC(=CC1S(=O)(=O)Cl)C | C6H7ClO3S
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2,5-dimethyl-furan-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C1=C(OC(=C1)C)C)C | C10H11BrN2O4S
